US09359375B2
2-(3-methylisothiazol-5-ylamino)-4-(2-oxoazepan-3-ylamino)benzamide
To 2-(3-methylisothiazol-5-ylamino)-4-(2-oxoazepan-3-ylamino)benzonitrile (143 mg, 0.263 mmol) in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1 mL, 1.0 mmol) and aq. H2O2 (50%, 1 mL) were added. The mixture was stirred at room temperature for 3 h. HOAc (1 mL) was added. The mixture was then purified by HPLC to give the titled compound (72 mg). MS 360.3 (M+H); UV 202.1, 300.7 nm.

reactant | 2-(3-methylisothiazol-5-ylamino)-4-(2-oxoazepan-3-ylamino)benzonitrile | 0.263 mmol, 143 mg | CC1=NSC(=C1)NC1=C(C#N)C=CC(=C1)NC1C(NCCCC1)=O | C17H19N5OS
reactant | NaOH | 1.0 mmol, 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(3-methylisothiazol-5-ylamino)-4-(2-oxoazepan-3-ylamino)benzamide | 72 mg | CC1=NSC(=C1)NC1=C(C(=O)N)C=CC(=C1)NC1C(NCCCC1)=O | C17H21N5O2S
